US05696290
Cyclohexyl-tetrapropylguanidine
Phosphorus oxychloride (86 ml, 142 g, 0.92 mol) is added dropwise over a 1 hour period to a toluene (800 ml) solution of cyclohexyl-dipropylurea (191 g, 0.845 mol). The reaction is stirred overnight at room temperature. Dipropylamine (221 g, 300 ml, 2.19) is added dropwise for over a 2 hour period, then stirred 2 hours at room temperature. Sodium hydroxide solution (6×0.92 mol NaOH and 500 ml water) is slowly added to the reaction mixture in an ice-water bath. The water layer is extracted with diethylether (3×100 ml). The organic layers are combined and dried over Na2CO3, filtered and concentrated. The residue is further distilled under vacuum (ca. 0.3-0.5 torr) collecting product, cyclohexyl-tetrapropylguanidine, at 150° C. (235 g, 90%) of 99% purity as judged by gas chromatography. 1H NMR (CDCl3) δ 3.10 (m, 1H), 3.02 (b , 4H), 2.88 (t, 4H, 1.77-1.12 (m, 10H), 1.42 (q, 8H), 0.82 (t, 6H), 0.80 (t, 6H) ppm.

reactant | Phosphorus oxychloride | 0.92 mol, 86 ml, 142 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | cyclohexyl-dipropylurea | 0.845 mol, 191 g | C1(CCCCC1)N(C(=O)NCCC)CCC | C13H26N2O
reactant | Dipropylamine | 300 ml, 221 g | C(CC)NCCC | C6H15N
reactant | Sodium hydroxide | 0.92 mol, 500 ml | [OH-].[Na+]
reactant | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | Cyclohexyl-tetrapropylguanidine | C1(CCCCC1)N=C(N(CCC)CCC)N(CCC)CCC | C19H39N3
